US06713499B2
To a stirred solution of 400 mg (1.15 mmol) 4-methoxy-N1,N1-bis-(4-methyl-benzyl)-benzene-1,3-diamine in 8 ml acetone was added dropwise a solution of 0.18 ml (1.34 mmol) benzoyl isothiocyanate in 4 ml acetone and stirring continued for 30 minutes at room temperature. The mixture was then diluted with ethyl acetate and washed with water and then with brine. The organic phase was dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/9 ethyl acetate/hexane) afforded 320 mg (80%) 1-benzoyl-3-{5-[bis-(4-methyl-benzyl)-amino]-2-methoxy-phenyl}-thiourea as a yellow oil. ES-MS m/e (%): 510 (M+H+, 100).

reactant | 4-methoxy-N1,N1-bis-(4-methyl-benzyl)-benzene-1,3-diamine | 1.15 mmol, 400 mg | COC1=C(C=C(C=C1)N(CC1=CC=C(C=C1)C)CC1=CC=C(C=C1)C)N | C23H26N2O
reactant | benzoyl isothiocyanate | 1.34 mmol, 0.18 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzoyl-3-{5-[bis-(4-methyl-benzyl)-amino]-2-methoxy-phenyl}-thiourea | 320 mg, 80% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N(CC1=CC=C(C=C1)C)CC1=CC=C(C=C1)C)OC | C31H31N3O2S
